US06235771B1
To a solution of 4-bromo-2-chlorophenol (10 g) in DMF (200 ml) were added at room temperature potassium carbonate (9.99 g), sodium iodide (7.95 g) and 2-chloroethylpropylether (6.7 ml), and the mixture was stirred at 90° C. for 24 hours. To the mixture was added water, and the mixture was extracted with hexane. The organic layer was washed with water, 1N sodium hydroxide solution and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give pale yellow oil of 4-bromo-2-chloro-1-(2-propoxyethoxy)benzene (14.91 g).

reactant | 4-bromo-2-chlorophenol | 10 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | potassium carbonate | 9.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 7.95 g | [I-].[Na+]
reactant | 2-chloroethylpropylether | 6.7 ml | ClCCOCCC | C5H11ClO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-2-chloro-1-(2-propoxyethoxy)benzene | 14.91 g | BrC1=CC(=C(C=C1)OCCOCCC)Cl | C11H14BrClO2
